US07566736B2
A solution of 540 mg (2.84 mmol) of 6-methoxy-1H-indole-2-carboxamide in 8 ml of pyridine is cooled to 0° C. and a solution of 908 mg (2.84 mmol) of pyridinium tribromide in 6 ml of pyridine is added thereto, dropwise. The reaction medium is stirred at 0° C. for 30 minutes and at ambient temperature for 19 h. 20 ml of ice-cold water is added to the reaction medium. The latter is then stirred at ambient temperature for 1 h and then filtered over sintered glass, to give 538 mg of 3-bromo-6-methoxy-1H-indole-2-carboxamide in the form of a white solid.

reactant | 6-methoxy-1H-indole-2-carboxamide | 2.84 mmol, 540 mg | COC1=CC=C2C=C(NC2=C1)C(=O)N | C10H10N2O2
reactant | pyridinium tribromide | 2.84 mmol, 908 mg | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
product | 3-bromo-6-methoxy-1H-indole-2-carboxamide | 538 mg | BrC1=C(NC2=CC(=CC=C12)OC)C(=O)N | C10H9BrN2O2
